US06306892B1
As described in Example 1(d) for the preparation of 4-furan-3-yl-pyridine, 1-iodo-4-propylbenzene (500 mg, 2.03 mmol) was coupled to 3-furanboronic acid to furnish in high yield 3-(4-propylphenyl)-furan as a light brown oil that was unstable and used immediately without further purification.

reactant | 4-furan-3-yl-pyridine | O1C=C(C=C1)C1=CC=NC=C1 | C9H7NO
reactant | 1-iodo-4-propylbenzene | 2.03 mmol, 500 mg | IC1=CC=C(C=C1)CCC | C9H11I
reactant | 3-furanboronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
product | 3-(4-propylphenyl)-furan | C(CC)C1=CC=C(C=C1)C1=COC=C1 | C13H14O
